US07902356B2
Benzyl-(2-methyl-allyl)-amine
Add benzaldehyde (14.5 mL, 143 mmol) to a mixture of methallylamine (9.73 g, 137 mmol) and MgSO4 (15.0 g, 125 mmol) in THF (180 mL). Stir for 22 h, filter the mixture, and concentrate the filtrate. Dissolve the residue in EtOH (200 mL) and treat with NaBH4 (5.00 g, 132 mmol) in 3 portions. After 19 h, remove the solvent by rotary evaporation. Treat the residue with 1 M HCl (200 mL) then 5 M HCl (20 mL). Wash the solution with tert-butyl methyl ether (250 mL) and then treat with 5 M NaOH (50 mL) to make basic. Extract the mixture with CH2Cl2 (200 mL followed by 100 mL). Dry, filter and concentrate the organic solution to give the title compound (20.3 g, 92%) as a colorless liquid. 1H NMR (400 MHz, DMSO-d6): δ 7.2-7.4 (5H, m), 4.84 (1H, s), 4.79 (1H, s), 3.63 (2H, s), 3.03 (2H, s), 1.69 (3H, s).

reactant | benzaldehyde | 143 mmol, 14.5 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | methallylamine | 137 mmol, 9.73 g | C(C(C)=C)N | C4H9N
reactant | MgSO4 | 125 mmol, 15.0 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH4 | 132 mmol, 5.00 g | [BH4-].[Na+]
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | Benzyl-(2-methyl-allyl)-amine | 20.3 g, 92% | C(C1=CC=CC=C1)NCC(=C)C | C11H15N
